US09084802B2
In vitro hemolysis of rabbit red blood cells (RBCs) after exposure to minocycline formulated in MgCl2 or CaCl2 was compared to in vitro hemolysis of RBCs after exposure to minocycline in saline, or exposure to amphotericin B. Minocycline HCl (LKT laboratories) stock solutions were prepared with MgCl2 in saline, saline, or lactated ringer, and the pH was adjusted with NaOH. Rabbit and sheep red blood cells (RBCs) were obtained from Innovative Research laboratory (Michigan, USA). Immediately before use, RBCs were washed three times in 0.9% saline and adjusted to a density of 5% in saline. 200 μl RBCs was added to 800 μl minocycline solution, and mixed by gentle inversion for 2-5 seconds. Samples were incubated at 37° C. or 30 minutes or at 25° C. for 2-5 minutes. Incubated samples were centrifuged at 12000×g for 4 minutes and the supernatants were removed and the hemoglobin absorbance was read at 540 nm. Samples were tested in triplicate. Amphotericin B (MP Biomedicals) and distilled H2O, or Triton-x and distilled H2O were used as positive controls; saline was used as a negative control. Percent hemolysis was calculated according to the following formula: Percent hemolysis=(absorbance of sample)−(absorbance of blank)/Absorbance of Distilled H2O×100/Absorbance of Distilled H2O

reactant | minocycline | CN(C)C1=CC=C(C2=C1C[C@H]3C[C@H]4[C@@H](C(=C(C(=O)[C@]4(C(=C3C2=O)O)O)C(=O)N)O)N(C)C)O | C23H27N3O7
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
reactant | amphotericin B | C[C@H]1/C=C/C=C/C=C/C=C/C=C/C=C/C=C/[C@@H](C[C@H]2[C@@H]([C@H](C[C@](O2)(C[C@H](C[C@H]([C@@H](CC[C@H](C[C@H](CC(=O)O[C@H]([C@@H]([C@@H]1O)C)C)O)O)O)O)O)O)O)C(=O)O)O[C@H]3[C@H]([C@H]([C@@H]([C@H](O3)C)O)N)O | C47H73NO17
reactant | NaOH | [OH-].[Na+]
solvent | MgCl2 | [Mg+2].[Cl-].[Cl-]
product | Minocycline HCl | CN(C)C1=CC=C(C2=C1C[C@H]3C[C@H]4[C@@H](C(=C(C(=O)[C@]4(C(=C3C2=O)O)O)C(=O)N)O)N(C)C)O.Cl | InChI=1S/C23H27N3O7.ClH/c1-25(2)12-5-6-13(27)15-10(12)7-9-8-11-17(26(3)4)19(29)16(22(24)32)21(31)23(11,33)20(30)14(9)18(15)28;/h5-6,9,11,17,27,29-30,33H,7-8H2,1-4H3,(H2,24,32);1H/t9-,11-,17-,23-;/m0./s1
